US05965741
A suspension of 2,3-dihydroxybenzaldehyde (15 g, 109 mmole) in CH2Cl2 (70 ml) was cooled to -10° C. Triethyl amine (5.49 g, 54.3 mmol) was added followed by pivaloyl chloride (6.49 g, 53.9 mmol). The reaction was allowed to stir for 1 hour at -10° C. and then warmed to ambient temperature. The reaction mixture was stirred at ambient temperature overnight, then washed with water, 1N aqueous HCl, saturated aqueous NaHCO3 and water. The organic phase was dried (MgSO4) and evaporated. The residue was purified by chromatography (eluant: ethyl acetate/hexane) to give 2-hydroxy-3-pivaloyloxybenzaldehyde: (10.15 g, 84%).

reactant | 2,3-dihydroxybenzaldehyde | 109 mmole, 15 g | OC1=C(C=O)C=CC=C1O | C7H6O3
reactant | Triethyl amine | 54.3 mmol, 5.49 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 53.9 mmol, 6.49 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-3-pivaloyloxybenzaldehyde | OC1=C(C=O)C=CC=C1OC(C(C)(C)C)=O | C12H14O4
